US05700819
To methylene chloride (10 ml) was added sarcosine ethyl ester hydrochloride (307 mg, 2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (WSC.HCl; 422 mg, 2.2 mmol), 3-(4,5,7-trifluorobenzothiazol-2-yl)propionic acid (522 mg, 2 mmol) and triethylamine (220 mg, 2.2 mmol), and the mixture was stirred at room temperature for 15 hours. The resulting mixture was washed with water, dried and evaporated to yield a residue, which was purified on a silica gel column to give N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine ethyl ester (610 mg, 85%) as an oil.

reactant | sarcosine ethyl ester hydrochloride | 2 mmol, 307 mg | Cl.C(C)OC(CNC)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.2 mmol, 422 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-(4,5,7-trifluorobenzothiazol-2-yl)propionic acid | 2 mmol, 522 mg | FC1=C(C=C(C2=C1N=C(S2)CCC(=O)O)F)F | C10H6F3NO2S
reactant | triethylamine | 2.2 mmol, 220 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine ethyl ester | 610 mg, 85% | C(C)OC(CN(C)C(CCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C15H15F3N2O3S
